US07259266B2
7-(4-aminobenzyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid trifluoroacetate
The 7-{4-[(tert-butoxycarbonyl)amino]benzyl}-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid (300 mg, 0.62 mmole) was stirred in 3 mL dioxane and 0.62 mL HCl (4M) in dioxane for 6 hrs. 1HNMR indicated that the reaction mixture was 1:1 ratio of starting material:product. Additional 0.3 mL 12 N HCl in 2 mL water was added to above mixture. After the mixture was stirred for overnight, 0.3 mL 12 N HCl was added. After another overnight stirring, the solution of 3 mL 12 N HCl in 3 mL MeOH and 3 mL water was added to above mixture and the mixture was stirred for 6 hrs. The mixture was purified by RPHPLC elute with 20 to 65% ACN in water with 0.1% TFA to give the desired product as a white solid with >95% purity: ESHRMS m/z 384.0594 (M+H, C18H14O3F3ClN, Calc'd 384.0609). 1H NMR (acetone-d6/400 MHz) 7.87 (s, 1H), 7.58(s, 1H), 7.39 (d, 1H, J=8.4 Hz), 7.22 (d, 1H, J=8.4 Hz), 6.02 (s, 1H), 5.82 (q, 1H, J=7.2 Hz), 4.15 (m, 2H).

reactant | 7-{4-[(tert-butoxycarbonyl)amino]benzyl}-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.62 mmole, 300 mg | C(C)(C)(C)OC(=O)NC1=CC=C(CC2=C(C=C3C=C(C(OC3=C2)C(F)(F)F)C(=O)O)Cl)C=C1 | C23H21ClF3NO5
reactant | HCl | 4M, 0.62 mL | Cl | ClH
reactant | HCl | 12 N, 0.3 mL | Cl | ClH
reactant | HCl | 12 N, 0.3 mL | Cl | ClH
reactant | HCl | 12 N, 3 mL | Cl | ClH
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 7-(4-aminobenzyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid trifluoroacetate | FC(C(=O)O)(F)F.NC1=CC=C(CC2=C(C=C3C=C(C(OC3=C2)C(F)(F)F)C(=O)O)Cl)C=C1 | InChI=1S/C18H13ClF3NO3.C2HF3O2/c19-14-7-11-6-13(17(24)25)16(18(20,21)22)26-15(11)8-10(14)5-9-1-3-12(23)4-2-9;3-2(4,5)1(6)7/h1-4,6-8,16H,5,23H2,(H,24,25);(H,6,7)
